US07829560B2
3-Fluoro-5-morpholin-4-yl-N-{4-[(2-piperidin-1-ylpyrimidin-4-yl)oxy]-1-naphthyl}benzamide (Compound B324).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and piperidine according to conditions described in general procedure C. Mp: 190-191° C.; 1H NMR (400 MHz, CDCl3) δ 1.52-1.63 (m, 6 H), 3.27-3.63 (m, 4 H), 3.72 (m, 4 H), 3.87 (m, 4 H), 5.81-5.83 (m, 1 H), 5.92-5.94 (m, 1 H), 6.78 (d, J=10.0 Hz, 1 H), 7.08 (d, J=6.4 Hz, 1 H), 7.33-7.35 (m, 2 H), 7.50-7.61 (m, 2 H), 7.89-7.91 (m, 1 H), 7.96-8.14 (m, 1 H), 8.12-8.17 (m, 2 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | piperidine | N1CCCCC1 | C5H11N
product | 3-Fluoro-5-morpholin-4-yl-N-{4-[(2-piperidin-1-ylpyrimidin-4-yl)oxy]-1-naphthyl}benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N2CCCCC2)C=C(C1)N1CCOCC1 | C30H30FN5O3
